US04642313
7.8 g of N-benzoyl-(3-furylcarbonyl)methylamine, 1.6 g of 61% sodium hydride and 6.3 g of ethyl bromoacetate are treated in the same manner as described in Preparation 1-(2). 9.2 g of ethyl 3-benzoylamino-3-(3-furylcarbonyl)propionate are thereby obtained. Yield: 86.0%

reactant | N-benzoyl-(3-furylcarbonyl)methylamine | 7.8 g | C(C1=CC=CC=C1)(=O)NCC(=O)C1=COC=C1 | C13H11NO3
reactant | sodium hydride | 1.6 g | [H-].[Na+]
reactant | ethyl bromoacetate | 6.3 g | BrCC(=O)OCC | C4H7BrO2
product | ethyl 3-benzoylamino-3-(3-furylcarbonyl)propionate | 9.2 g, Yield: 86.0% | C(C1=CC=CC=C1)(=O)NC(CC(=O)OCC)C(=O)C1=COC=C1 | C17H17NO5
